US06358971B1
2-Amino-3-benzyl-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-benzyl-6-benzoyl-imidazo[1,2-a]pyridine (2.14 g, 5.06 mmol) was converted to product in a manner substantially analogous to Example 56 to yield 1.29 g. (78.2%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-benzyl-6-benzoyl-imidazo[1,2-a]pyridine | 5.06 mmol, 2.14 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1CC1=CC=CC=C1)(F)F | C23H16F3N3O2
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-benzyl-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1CC1=CC=CC=C1 | C21H17N3O
